US04088772
To a solution of 3.0 g (8.7 mmoles) of 5amino-2-cyclopentylmethyl-2,3,8,12b-tetrahydro-1H-3a, 8-methanodibenzo[3,4:6,7]cyclohepta[1,2-c]pyrrole and 10 ml of triethylamine in 25 ml of chloroform, cooled to 0°, was added dropwise 2.5 g (31.8 mmoles) of acetyl chloride. The reaction mixture was stirred overnight at room temperature and then for 30 minutes with 2.5 N aqueous sodium hydroxide. The organic layer was separated and the aqueous layer was extracted with methylene chloride. The combined organic extracts were washed with water, dried over potassium carbonate, and concentrated under vacuum. The residue was chromatographed on silica gel CC No. 7 with 57% methanol in chloroform to give 1.3 g of 5-acetamido-2-cyclopentylmethyl- 2,3,8,12b-tetrahydro1H-3a,8-methanodibenzo[3,4:6,7]cyclohepta[1,2-c]pyrrole as an oil; nmr spectrum: δ 1.0-4.0 (m, 19); 2.1 (s, 3); 6.8-7.8 (m, 7).

reactant | 5amino-2-cyclopentylmethyl-2,3,8,12b-tetrahydro-1H-3a, 8-methanodibenzo[3,4:6,7]cyclohepta[1,2-c]pyrrole | 8.7 mmoles, 3.0 g | NC=1C=CC2=C(C34C(CN(C3)CC3CCCC3)C3=C(C2C4)C=CC=C3)C1 | C24H28N2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 31.8 mmoles, 2.5 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-acetamido-2-cyclopentylmethyl- 2,3,8,12b-tetrahydro1H-3a,8-methanodibenzo[3,4:6,7]cyclohepta[1,2-c]pyrrole | 1.3 g | C(C)(=O)NC=1C=CC2=C(C34C(CN(C3)CC3CCCC3)C3=C(C2C4)C=CC=C3)C1 | C26H30N2O
